US06844352B2
1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine] hydroiodide
1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine] (1.0 g, oil) and 2-propanole (15 ml) was stirred and heated until the oil was dissolved. Aqueous hydroiodic acid (1 ml, 57% HI) was added dropwise and crystals of the title compound was formed. More 2-propanole (10 ml) and hydrobromic acid (4 ml, 57% HI) was added to the suspension. The suspension was cooled on ice and the precipitate was filtered off and dried.

reactant | 1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine] | 1.0 g | FC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CCCCN1CCC2(CC1)OCC1=CC=CC=C12 | C30H31FN2O
reactant | hydroiodic acid | 1 ml | I | HI
product | 1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine] hydroiodide | I.FC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CCCCN1CCC2(CC1)OCC1=CC=CC=C12 | InChI=1S/C30H31FN2O.HI/c31-25-12-14-26(15-13-25)33-21-23(27-9-2-4-11-29(27)33)7-5-6-18-32-19-16-30(17-20-32)28-10-3-1-8-24(28)22-34-30;/h1-4,8-15,21H,5-7,16-20,22H2;1H
